US04666902
6-(2-Thienyl)-5-hydroxymethyl-2,3,4,5-tetrahydro-pyridazin-3-one
11.8 g (0.06 mol) of 4-(2-thienyl-carbonyl)-γ-butyrolactone and 3.1 g (0.062 mol) of hydrazine hydrate are stirred in 100 ml of ethanol at room temperature for 2 hours. The precipitated hydrazone is filtered off with suction, 60 ml of toluene and 6 ml of acetic acid are added and the mixture is heated under reflux for 2 hours. After the mixture has been cooled, the precipitated product is filtered off with suction, washed and dried.

reactant | 4-(2-thienyl-carbonyl)-γ-butyrolactone | 0.06 mol, 11.8 g | S1C(=CC=C1)C(=O)C1CCC(=O)O1 | C9H8O3S
reactant | hydrazine hydrate | 0.062 mol, 3.1 g | O.NN
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | 6-(2-Thienyl)-5-hydroxymethyl-2,3,4,5-tetrahydro-pyridazin-3-one | S1C(=CC=C1)C=1C(CC(NN1)=O)CO | C9H10N2O2S
